US07419997B2
To a cold (0° C.) solution of 4-chloroaniline (5.6 g, 44 mmol) in concentrated hydrochloric acid (5 mL) was added sodium nitrite (3.0 g, 44 mmol) dissolved in water (10 mL) portionwise over 20 minutes. The mixture was stirred at 0° C. for 30 minutes. In a separate flask, a cool solution of 2-(hydroxymethylene)cyclohexanone (Organic Syntheses, Collective Vol 4, 1963, pg. 536) (5.0 g, 40 mmol) in methanol (30 mL) was treated with a solution of sodium acetate (8.3 g, 101 mmol) in water (25 mL). The mixture was stirred at 0° C. for 20 minutes and the diazonium salt slurry was added. The combined mixture was stirred for 10-15 minutes, collected by filtration, triturated with ethanol, and collected by filtration to give cyclohexane-1,2-dione (4-chlorophenyl)hydrazone (4.6 g, 49% yield) as a yellow solid. 1H-NMR (DMSO-d6): δ 9.93 (s, 1H), 7.29 (m, 4H), 2.55 (m, 2H), 2.40 (m, 2H), 1.84-1.75 (m, 4H).

reactant | 4-chloroaniline | 44 mmol, 5.6 g | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | sodium nitrite | 44 mmol, 3.0 g | N(=O)[O-].[Na+]
reactant | 2-(hydroxymethylene)cyclohexanone | 40 mmol, 5.0 g | OC=C1C(CCCC1)=O | C7H10O2
reactant | sodium acetate | 101 mmol, 8.3 g | C(C)(=O)[O-].[Na+]
solvent | hydrochloric acid | 5 mL | Cl | ClH
solvent | water | 10 mL | O | H2O
solvent | methanol | 30 mL | CO | CH4O
solvent | water | 25 mL | O | H2O
product | cyclohexane-1,2-dione (4-chlorophenyl)hydrazone | 4.6 g, 49% yield | ClC1=CC=C(C=C1)NN=C1C(CCCC1)=O | C12H13ClN2O
